US09127007B2
(c). 5-bromo-2,3-dimethoxypyridine
To a solution of 2,3-dimethoxy-pyridine (104 g) in DCM (1 L) and a saturated aqueous solution of NaHCO3 (1.6 ml) at 0° C. was added bromine (120 g). The reaction was stirred for 2 hours at 0° C. The reaction mixture was quenched with Na2SO3 (saturated in water, 500 ml) and stirred for 30 min. The aqueous layer was extracted with DCM, and the organic phase was washed with brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by chromatography on silica gel with heptane and increasing amounts of ethyl acetate.

reactant | 2,3-dimethoxy-pyridine | 104 g | COC1=NC=CC=C1OC | C7H9NO2
reactant | NaHCO3 | 1.6 ml | C(=O)(O)[O-].[Na+]
reactant | bromine | 120 g | BrBr | Br2
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | 5-bromo-2,3-dimethoxypyridine | BrC=1C=C(C(=NC1)OC)OC | C7H8BrNO2
